US07169761B2
N-bromosuccinimide (1.7 g) and benzoyl peroxide (0.1 g) were added to a solution of (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-(2-ethoxy-5-methylphenyl)-D-glucitol (3.7 g) in carbon tetrachloride (30.0 ml) and the mixture was refluxed with heating for one hour. The reaction mixture was diluted with chloroform and the diluted product was washed with saturated aqueous solution of sodium hydrogencarbonate, saturated aqueous solution of sodium thiosulfate, and saturated brine in that order and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The resulting precipitates were collected by filtration to obtain (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[5-(bromomethyl)-2-ethoxyphenyl]-D-glucitol (1.4 g).

reactant | N-bromosuccinimide | 1.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-(2-ethoxy-5-methylphenyl)-D-glucitol | 3.7 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=C(C=CC(=C1)C)OCC | C23H30O10
solvent | carbon tetrachloride | 30.0 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[5-(bromomethyl)-2-ethoxyphenyl]-D-glucitol | 1.4 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=C(C=CC(=C1)CBr)OCC | C23H29BrO10
